US08623889B2
Step 2: methyl 5-(3-aminoisoquinolin-7-yl)-6-methylnicotinate
A mixture of 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-amine (337.3 mg; 0.8742 mmol), methyl 5-bromo-6-methyl-pyridine-3-carboxylate (214.2 mg; 0.9311 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (63.3 mg; 0.0894 mmol), potassium carbonate (307.2 mg; 2.223 mmol), 1,2-dimethoxyethane (3.0 mL; 28 mmol), and water (0.3 mL; 20 mmol) was subjected to microwave irradiation at 110° C. for 90 minutes. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (40 g silica, solvent gradient: 0-10% methanol in dichloromethane) to yield 189.8 mg (74%) of the title compound. LCMS (ESI): M+H=294.2; 1H NMR (400 MHz, DMSO) δ 8.98 (d, J=1.9 Hz, 1H), 8.88 (s, 1H), 8.10 (d, J=1.9 Hz, 1H), 7.88 (s, 1H), 7.62 (d, J=8.6 Hz, 1H), 7.54 (d, J=8.6 Hz, 1H), 6.67 (s, 1H), 6.03 (s, 2H), 3.90 (s, 3H), 2.57 (s, 3H).

reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-amine | 0.8742 mmol, 337.3 mg | CC1(OB(OC1(C)C)C1=CC=C2C=C(N=CC2=C1)N)C | C15H19BN2O2
reactant | methyl 5-bromo-6-methyl-pyridine-3-carboxylate | 0.9311 mmol, 214.2 mg | BrC=1C=C(C=NC1C)C(=O)OC | C8H8BrNO2
reactant | potassium carbonate | 2.223 mmol, 307.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dimethoxyethane | 28 mmol, 3.0 mL | COCCOC | C4H10O2
reactant | water | 20 mmol, 0.3 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0894 mmol, 63.3 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | methyl 5-(3-aminoisoquinolin-7-yl)-6-methylnicotinate | 189.8 mg, 74% | NC=1N=CC2=CC(=CC=C2C1)C=1C(=NC=C(C(=O)OC)C1)C | C17H15N3O2
